US04126687
A mixture of 6.7 parts of 5-chloro-1,3-dihydro-1-(3-hydroxypropyl)-2H-benzimidazol-2-one methanesulfonate, 4.2 parts of 4-(4-chlorophenyl)-4-piperidinol, 3.2 parts of sodium carbonate and 32 parts of 4-methyl-2-pentanone is stirred and heated at 50°-60° C. for 1.50 hours. The reaction mixture is poured onto ice-water. The precipitated product is filtered off and dissolved in trichloromethane. The solution is washed with water, dried, filtered and evaporated. The solid residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 10% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The solid residue is stirred in a small amount of trichloromethane. The product is filtered off and crystallized from 4-methyl-2-pentanone, yielding 2 parts (24%) of 5-chloro-1-{3-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 190.8° C.

reactant | 5-chloro-1,3-dihydro-1-(3-hydroxypropyl)-2H-benzimidazol-2-one methanesulfonate | CS(=O)(=O)O.ClC1=CC2=C(N(C(N2)=O)CCCO)C=C1
reactant | 4-(4-chlorophenyl)-4-piperidinol | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 5-chloro-1-{3-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one | 24% | ClC1=CC2=C(N(C(N2)=O)CCCN2CCC(CC2)(O)C2=CC=C(C=C2)Cl)C=C1 | C21H23Cl2N3O2
